US04021553
Sodium, 3.0 g. (0.13 mole), was added piecewise under a nitrogen atmosphere to 100 ml. of dry methanol, followed by the addition of a slurry of 31.6 g. (0.1 mole) of 5,6-bis(4-methoxyphenyl)-3-methylthio-1,2,4-triazine in methanol. The reaction mixture was heated at reflux overnight. The reaction mixture was cooled and filtered. The filter cake and the filtrate were extracted with diethyl ether. The diethyl ether was concentrated, giving a solid, m.p. >220° C. The solid was taken up in diethyl ether and the insoluble material was removed by filtration. The filtrate was dried over anhydrous sodium sulfate and concentrated to give a solid residue which was recrystallized from petroleum ether to give 3-methoxy-5,6-bis(4-methoxyphenyl)-1,2,4-triazine, m.p. about 105°-108° C.

reactant | Sodium | [Na] | Na
reactant | 5,6-bis(4-methoxyphenyl)-3-methylthio-1,2,4-triazine | 0.1 mole | COC1=CC=C(C=C1)C=1N=C(N=NC1C1=CC=C(C=C1)OC)SC | C18H17N3O2S
reactant | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-methoxy-5,6-bis(4-methoxyphenyl)-1,2,4-triazine | COC=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H17N3O3
